US07728003B2
Step B. 4-[(2-Ethoxycarbonyl-ethyl)-indan-5-yl-amino]-2-methylsulfanyl-pyrimidine-5-carboxylic acid ethyl ester
To a solution of 3-(indan-5-ylamino)-propionic acid ethyl ester (5 g, 21.4 mmol) and ethyl 4-chloro-2-methylthio-5-pyrimidinecarboxylate (5 g, 21.4 mmol) in 40 mL of n-butanol was added triethylamine (3 mL, 21.4 mmol). The solution was stirred at rt for 2 days. The solvent was removed under vacuum. The residue was extracted into EtOAc, washed with water, brine and then dried with Na2SO4. Removal of the solvent and chromatography on silica, eluting with EtOAc/hexanes (1:10-1:6, v/v), gave 8.2 g (90%) of the titled compound as a white solid. 1H NMR (300 MHz, CDCl3) δ (ppm): 8.22 (s, 1H), 7.16 (d, J=7.6 Hz, 1H), 6.95 (s, 1H), 6.87 (d, J=7.6 Hz, 1H), 4.35 (t, 2H), 3.55 (q, 2H), 2.82 (m, 4H), 2.69 (t, 2H), 2.58 (s, 3H), 2.06 (m, 2H), 1.20 (t, 3H), 1.02 (t, 3H).

reactant | 3-(indan-5-ylamino)-propionic acid ethyl ester | 21.4 mmol, 5 g | C(C)OC(CCNC=1C=C2CCCC2=CC1)=O | C14H19NO2
reactant | ethyl 4-chloro-2-methylthio-5-pyrimidinecarboxylate | 21.4 mmol, 5 g | ClC1=NC(=NC=C1C(=O)OCC)SC | C8H9ClN2O2S
reactant | triethylamine | 21.4 mmol, 3 mL | C(C)N(CC)CC | C6H15N
solvent | n-butanol | 40 mL | C(CCC)O | C4H10O
product | 4-[(2-Ethoxycarbonyl-ethyl)-indan-5-yl-amino]-2-methylsulfanyl-pyrimidine-5-carboxylic acid ethyl ester | 8.2 g, 90% | C(C)OC(=O)C=1C(=NC(=NC1)SC)N(C=1C=C2CCCC2=CC1)CCC(=O)OCC | C22H27N3O4S
